US08975400B2
3-fluoro-4-(5-methyl-1H-imidazol-1-yl)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 4-methyl-1H-imidazole.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 4-methyl-1H-imidazole | CC=1N=CNC1 | C4H6N2
product | 3-fluoro-4-(5-methyl-1H-imidazol-1-yl)benzaldehyde | FC=1C=C(C=O)C=CC1N1C=NC=C1C | C11H9FN2O
